US08236826B2
Production of (4-{5-[(4-trifluoromethylphenylamino)-methyl]-pyridin-2-yloxy}phenyl)(4-piperonylpiperazin-1-yl)methanone
Methanesulfonic acid 6-[4-(4-piperonylpiperazine-1-carbonyl)phenoxy]pyridin-3-yl ester (0.433 g, 0.824 mmol) and 4-trifluoromethyl phenylamine (0.310 mL, 2.47 mmol) were mixed together, and the resulting mixture was stirred for 2 hours at 100° C. The formed yellow mass was stirred together with a saturated sodium bicarbonate solution, ethyl acetate and THF (20 ml of each). The organic layer was collected, washed with brine, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane:methanol=50:1), to thereby yield 0.236 g of the title compound.

reactant | Methanesulfonic acid 6-[4-(4-piperonylpiperazine-1-carbonyl)phenoxy]pyridin-3-yl ester | 0.824 mmol, 0.433 g | C(C1=CC=2OCOC2C=C1)N1CCN(CC1)C(=O)C1=CC=C(OC2=CC=C(C=N2)OS(=O)(=O)C)C=C1 | C25H25N3O7S
reactant | 4-trifluoromethyl phenylamine | 2.47 mmol, 0.310 mL | FC(C1=CC=C(C=C1)N)(F)F | C7H6F3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | (4-{5-[(4-trifluoromethylphenylamino)-methyl]-pyridin-2-yloxy}phenyl)(4-piperonylpiperazin-1-yl)methanone | FC(C1=CC=C(C=C1)NCC=1C=CC(=NC1)OC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1)(F)F | C32H29F3N4O4
